US05436257
2(R)-t-Butoxycarbonylamino-4-methylpentanol
11.83 ml of triethylamine were added to a solution of 10 g of (R)-(-)-leucinol in 100 ml of dioxane and 50 ml of tetrahydrofuran, whilst ice-cooling. A solution of 18.6 g of di-t-butyl dicarbonate in 50 ml of tetrahydrofuran was then added dropwise to the reaction mixture. The resulting mixture was stirred at room temperature for 3 hours, after which the solvent was removed by distillation under reduced pressure to produce the title compound as a colorless oil, having an Rf=0.5 (thin layer chromatography on silica gel, using a 1:2 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | triethylamine | 11.83 ml | C(C)N(CC)CC | C6H15N
reactant | (R)-(-)-leucinol | 10 g | N[C@H](CC(C)C)CO | C6H15NO
reactant | di-t-butyl dicarbonate | 18.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2(R)-t-Butoxycarbonylamino-4-methylpentanol | C(C)(C)(C)OC(=O)N[C@@H](CO)CC(C)C | C11H23NO3
